US07994203B2
Step 1: 5-Methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylic acid ethyl ester:
To a stirred solution of diethyl acetylmalonate (20 g, 89.0 mmol) in EtOH (180 ml) is added hydrazine mono-hydrochloride (7.54 g, 107.0 mmol, 1.2 eq.) in one portion at RT. The reaction mixture is heated at reflux for 3 h then filtered hot. The filtrate is cooled to RT and concentrated under reduced pressure. The resulting crude residue is purified by Combi-Flash Companion™ (Isco Inc.) column chromatography (SiO2; gradient elution, DCM/[DCM/MeOH 9:1] 95:5→1:9]) to yield the title compound as a white solid. TLC: RF=0.21 (DCM/MeOH 92.5:7.5); HPLC: AtRet=0.75; MS: m/z 171.2 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ 1.24 (t, J 7.1, 3H), 2.30 (s, 3H), 4.15 (q, J 7.1, 2H).

reactant | diethyl acetylmalonate | 89.0 mmol, 20 g | C(C)(=O)C(C(=O)OCC)C(=O)OCC | C9H14O5
reactant | hydrazine mono-hydrochloride | 107.0 mmol, 7.54 g, 1.2 eq. | Cl.NN
solvent | EtOH | 180 ml | CCO | C2H6O
product | 5-Methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(NNC1C)=O | C7H10N2O3
